US08048887B2
2-(4-Fluorophenyl)-5-(3-(2-isobutyl-2H-tetrazol-5-yl)phenyl)-N-methylbenzofuran-3-carboxamide
1-Bromo-2-methylpropane (23 mg, 0.169 mmol) was added to a stirring solution of 5-(3-(1H-tetrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (35 mg, 0.085 mmol) and Na2CO3 (18 mg, 0.169 mmol) in DMF (1 mL) at 100° C. It was allowed to stir overnight. The mixture was concentrated and purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (15 mg, 38%). 1H NMR (500 MHz, DMSO-d6) δ ppm 8.49-8.56 (1H, m), 8.34 (1H, s), 8.08 (1H, d, J=7.63 Hz), 7.99-8.04 (2H, m), 7.87-7.94 (2H, m), 7.79-7.84 (1H, m), 7.73-7.78 (1H, m), 7.70 (1H, t, J=7.63 Hz), 7.41 (2H, t, J=8.70 Hz), 4.62 (2H, d, J=7.32 Hz), 2.87 (3H, d, J=4.27 Hz), 2.31-2.39 (1H, m), 0.95 (6H, d, J=6.71 Hz). LC-MS retention time: 2.09 min; m/z (MH+): 470. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 μm, Rt=16.08 min, purity=99%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 μm, Rt=13.89 min, purity=99%.

reactant | 1-Bromo-2-methylpropane | 0.169 mmol, 23 mg | BrCC(C)C | C4H9Br
reactant | 5-(3-(1H-tetrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.085 mmol, 35 mg | N1N=NN=C1C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C23H16FN5O2
reactant | Na2CO3 | 0.169 mmol, 18 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(4-Fluorophenyl)-5-(3-(2-isobutyl-2H-tetrazol-5-yl)phenyl)-N-methylbenzofuran-3-carboxamide | 15 mg, 38% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=CC(=CC=C2)C=2N=NN(N2)CC(C)C | C27H24FN5O2
